US05622976
To a mixture of 4-fluorobenzoic acid (2.0 g), ethyl 2-amino-2-hydroxyiminoacetate (2.07 g) and 4-dimethylaminopyridine (0.52 g) in methylene chloride (30 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (2.87 ml) at 0° C. under stirring. After stirring at ambient temperature for 1 hour, diethyl ether (10 ml) was added thereto and the resulting precipitate was filtered off, washed with diethyl ether, and dried in vacuo to give ethyl 2-amino-2-(4-fluorobenzoyloxyimino)acetate (3.2 g).

reactant | 4-fluorobenzoic acid | 2.0 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | ethyl 2-amino-2-hydroxyiminoacetate | 2.07 g | NC(C(=O)OCC)=NO | C4H8N2O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 2.87 ml | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
catalyst | 4-dimethylaminopyridine | 0.52 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-amino-2-(4-fluorobenzoyloxyimino)acetate | 3.2 g | NC(C(=O)OCC)=NOC(C1=CC=C(C=C1)F)=O | C11H11FN2O4
